*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-08-18 11:31:28
*********************************************************

.SUBCKT pam4drv_pam4_lay sub lsbp vcmb lsbn msbp msbn tmsb0 tlsb0 tmsb1 vcasc outp outn vcc
XQ_1 \$49 msbp \$10 sub npn13G2 Nx=3
XQ_2 \$50 msbn \$11 sub npn13G2 Nx=3
XQ_3 \$51 lsbp \$12 sub npn13G2 Nx=3
XQ_4 \$52 lsbn \$13 sub npn13G2 Nx=3
XQ_5 \$53 msbp \$14 sub npn13G2 Nx=3
XQ_6 \$54 msbn \$15 sub npn13G2 Nx=3
XQ_7 outp vcasc \$49 sub npn13G2 Nx=3
XQ_8 outn vcasc \$50 sub npn13G2 Nx=3
XQ_9 outp vcasc \$51 sub npn13G2 Nx=3
XQ_10 outn vcasc \$52 sub npn13G2 Nx=3
XQ_11 outp vcasc \$53 sub npn13G2 Nx=3
XQ_12 outn vcasc \$54 sub npn13G2 Nx=3
XR_13 vcmb lsbp sub rsil w=0.5u l=2.29u m=1
XR_14 vcmb lsbn sub rsil w=0.5u l=2.29u m=1
XR_15 vcmb msbp sub rsil w=0.5u l=2.29u m=1
XR_16 vcmb msbn sub rsil w=0.5u l=2.29u m=1
XR_17 tmsb0 \$10 sub rsil w=5u l=0.5u m=1
XR_18 tmsb0 \$11 sub rsil w=5u l=0.5u m=1
XR_19 tlsb0 \$12 sub rsil w=5u l=0.5u m=1
XR_20 tlsb0 \$13 sub rsil w=5u l=0.5u m=1
XR_21 tmsb1 \$14 sub rsil w=5u l=0.5u m=1
XR_22 tmsb1 \$15 sub rsil w=5u l=0.5u m=1
XR_23 outp vcc sub rsil w=1.4u l=8.71u m=1
XR_24 outn vcc sub rsil w=1.4u l=8.71u m=1
Cext_1 \$10 \$11 1.26121f
Cext_2 \$10 \$49 1.33815f
Cext_3 \$10 \$50 21.8803a
Cext_4 \$10 lsbp 0.456984a
Cext_5 \$10 msbn 4.63084a
Cext_6 \$10 msbp 733.085a
Cext_7 \$10 tmsb0 604.404a
Cext_8 \$10 vcasc 18.1384a
Cext_9 \$10 sub 3.21781f
Cext_10 \$11 \$49 5.24805a
Cext_11 \$11 \$50 1.33225f
Cext_12 \$11 lsbp 0.456984a
Cext_13 \$11 msbn 705.081a
Cext_14 \$11 msbp 32.9302a
Cext_15 \$11 sub 3.83277a
Cext_16 \$11 tmsb0 599.351a
Cext_17 \$11 vcasc 11.1851a
Cext_18 \$11 sub 3.1529f
Cext_19 \$12 \$13 1.26121f
Cext_20 \$12 \$51 1.33815f
Cext_21 \$12 \$52 21.8803a
Cext_22 \$12 lsbn 2.69733a
Cext_23 \$12 lsbp 700.957a
Cext_24 \$12 msbn 1.93351a
Cext_25 \$12 msbp 30.6663a
Cext_26 \$12 sub 3.83277a
Cext_27 \$12 tlsb0 604.404a
Cext_28 \$12 vcasc 18.1384a
Cext_29 \$12 sub 3.21596f
Cext_30 \$13 \$51 5.24805a
Cext_31 \$13 \$52 1.33225f
Cext_32 \$13 lsbn 704.368a
Cext_33 \$13 lsbp 1.82903a
Cext_34 \$13 msbn 0.712739a
Cext_35 \$13 msbp 31.1012a
Cext_36 \$13 sub 3.83277a
Cext_37 \$13 tlsb0 599.351a
Cext_38 \$13 vcasc 11.1851a
Cext_39 \$13 sub 3.1529f
Cext_40 \$14 \$15 1.26121f
Cext_41 \$14 \$53 1.33815f
Cext_42 \$14 \$54 21.8803a
Cext_43 \$14 msbn 10.1672a
Cext_44 \$14 msbp 702.761a
Cext_45 \$14 sub 3.83277a
Cext_46 \$14 tmsb1 604.404a
Cext_47 \$14 vcasc 18.1384a
Cext_48 \$14 sub 3.22592f
Cext_49 \$15 \$53 5.24805a
Cext_50 \$15 \$54 1.33225f
Cext_51 \$15 msbn 710.089a
Cext_52 \$15 msbp 1.82903a
Cext_53 \$15 sub 7.54597a
Cext_54 \$15 tmsb1 599.351a
Cext_55 \$15 vcasc 11.1851a
Cext_56 \$15 sub 3.16739f
Cext_57 \$49 msbp 50.8262a
Cext_58 \$49 outp 1.40921f
Cext_59 \$49 sub 16.2674a
Cext_60 \$49 vcasc 751.275a
Cext_61 \$49 sub 2.11221f
Cext_62 \$50 msbn 50.8262a
Cext_63 \$50 outn 1.38883f
Cext_64 \$50 outp 18.8477a
Cext_65 \$50 sub 35.6a
Cext_66 \$50 vcasc 760.275a
Cext_67 \$50 sub 2.0932f
Cext_68 \$51 lsbp 50.8262a
Cext_69 \$51 outp 1.41363f
Cext_70 \$51 sub 35.6a
Cext_71 \$51 vcasc 760.275a
Cext_72 \$51 sub 2.0932f
Cext_73 \$52 lsbn 50.8262a
Cext_74 \$52 outn 1.38883f
Cext_75 \$52 outp 18.8477a
Cext_76 \$52 sub 35.6a
Cext_77 \$52 vcasc 760.275a
Cext_78 \$52 sub 2.0932f
Cext_79 \$53 msbp 50.8262a
Cext_80 \$53 outp 1.41363f
Cext_81 \$53 sub 35.6a
Cext_82 \$53 vcasc 760.275a
Cext_83 \$53 sub 2.0932f
Cext_84 \$54 msbn 50.8262a
Cext_85 \$54 outn 1.38883f
Cext_86 \$54 outp 14.4261a
Cext_87 \$54 sub 31.567a
Cext_88 \$54 vcasc 744.688a
Cext_89 \$54 sub 2.1023f
Cext_90 lsbn lsbp 2.41112f
Cext_91 lsbn msbn 492.356a
Cext_92 lsbn msbp 118.751a
Cext_93 lsbn sub 1.39107a
Cext_94 lsbn tlsb0 257.923a
Cext_95 lsbn tmsb0 11.2534a
Cext_96 lsbn vcmb 175.481a
Cext_97 lsbp msbn 2.21499f
Cext_98 lsbp msbp 141.973a
Cext_99 lsbp sub 26.2168a
Cext_100 lsbp tlsb0 247.212a
Cext_101 lsbp tmsb0 17.3991a
Cext_102 lsbp vcmb 37.8497a
Cext_103 msbn msbp 4.00269f
Cext_104 msbn sub 51.2609a
Cext_105 msbn tlsb0 29.4636a
Cext_106 msbn tmsb0 276.22a
Cext_107 msbn tmsb1 385.008a
Cext_108 msbn vcmb 57.5408a
Cext_109 msbp tlsb0 260.488a
Cext_110 msbp tmsb0 507.245a
Cext_111 msbp tmsb1 254.018a
Cext_112 msbp vcmb 8.89208a
Cext_113 outn outp 7.69684f
Cext_114 outn sub 1.35408f
Cext_115 outn vcasc 152.2a
Cext_116 outn vcc 15.9437a
Cext_117 outp sub 2.30913f
Cext_118 outp vcasc 152.2a
Cext_119 outp vcc 15.9437a
Cext_120 sub vcasc 440.713a
Cext_121 sub vcc 672.616a
Cext_122 sub vcmb 1.08992f
Cext_123 sub lsbn 5.25605f
Cext_124 sub lsbp 3.25614f
Cext_125 sub msbn 6.85622f
Cext_126 sub msbp 6.35374f
Cext_127 sub outn 14.0252f
Cext_128 sub outp 12.3095f
Cext_129 sub sub 50.4021f
Cext_130 sub tlsb0 3.62451f
Cext_131 sub tmsb0 3.62451f
Cext_132 sub tmsb1 3.62451f
Cext_133 sub vcasc 7.68566f
Cext_134 sub vcc 10.4834f
Cext_135 sub vcmb 11.5065f
XCdeg_r0 \$10 \$11 cap_cmim w=3.59u l=3.59u
XCdeg_r1 \$12 \$13 cap_cmim w=3.59u l=3.59u
XCdeg_r2 \$14 \$15 cap_cmim w=3.59u l=3.59u
.ENDS pam4drv_pam4_lay
